US05273999
A solution of 1.09 g (3.3 mmol) of rac-5-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]-2H-1-benzopyran-2-one and 1.8 mL (7.9 mmol) of 25% methanolic sodium methoxide in 5 mL of methanol was stirred and refluxed for 24 hr and then concentrated under reduced pressure. The residue was treated with 1N hydrochloric acid and worked-up with ethyl acetate in the usual manner (the organic extracts were additionally washed with saturated aqueous sodium bicarbonate). The residue was purified by flash chromatography on silica gel, eluting with 2:1 hexane-ether. There was obtained 0.7 g (59%) of rac-(E)-3-[2-hydroxy-6-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]phenyl]-2-propenoic acid methyl ester as a yellow oil. Trituration of a sample prepared in this way with hexane gave a colorless solid, mp 66°-67.5° C.

reactant | rac-5-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]-2H-1-benzopyran-2-one | 3.3 mmol, 1.09 g | O1C(CCCC1)OCCCCC#CC1=CC=CC2=C1C=CC(O2)=O | C20H22O4
reactant | sodium methoxide | 7.9 mmol, 1.8 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | rac-(E)-3-[2-hydroxy-6-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexynyl]phenyl]-2-propenoic acid methyl ester | 0.7 g, 59% | COC(\C=C\C1=C(C=CC=C1C#CCCCCOC1OCCCC1)O)=O | C21H26O5
